US07585869B2
3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid:
Trifluoro acetic acid (10 mL) was added to a solution of 3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid tert-butyl ester (0.40 g, 0.82 mmol) in CH2Cl2 (10 mL). After 12 h the reaction was concentrated to give a red solid (0.36 g, 100%). LRMS: 4.42 (MH+), HPLC Rf: 8.34 min.

reactant | Trifluoro acetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid tert-butyl ester | 0.82 mmol, 0.40 g | C(C)(C)(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2)C)=O | C29H31N5O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-Methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-benzoic acid | 0.36 g, 100% | CC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2 | C25H23N5O3
